US05296493
a: 1-Methyl-2-chloromethyl-imidazoline, hydrochloride
A solution of chloracetimidoethylether, hydrochloride (1.58 g, 10 mmol) and N-methyl-ethylenediamine (0.74 g, 10 mmol) in 10 ml absolute ethanol is stirred at 0° C. and under a nitrogen atmosphere for one hour. A solution of hydrogen chloride in absolute ethanol (6.3 ml, 10 mmol) is added and the mixture is heated to 40° C. and stirred for additional two hour. After cooling to room temperature a precipitate of ammonium chloride is filtered of and the filtrate is concentrated in vacuo yielding the title compound as a yellow oil.

reactant | hydrochloride | 10 mmol, 1.58 g | Cl | ClH
reactant | N-methyl-ethylenediamine | 10 mmol, 0.74 g | CNCCN | C3H10N2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | ethanol | 10 mmol, 6.3 ml | C(C)O | C2H6O
product | 1-Methyl-2-chloromethyl-imidazoline, hydrochloride | Cl.CN1C(=NCC1)CCl | InChI=1S/C5H9ClN2.ClH/c1-8-3-2-7-5(8)4-6;/h2-4H2,1H3;1H
